US06118016
C) 1-{(2-Ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid
A solution of 2.50 g (4.4 mmol) of 1-{(2-ethoxycarbonylvinyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid benzyl ester in 25 mL of ethanol was treated with 2.5 g of 50% water wet 10% palladium on carbon catalyst and shaken under 53 psi of hydrogen for 21 hours. The catalyst was removed by filtration and washed with ethanol (4×25 mL). The filtrate and washings were combined and concentrated under vacuum to 1.74 g (82%) of crude 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid□ as a viscous oil.

reactant | 1-{(2-ethoxycarbonylvinyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid benzyl ester | 4.4 mmol, 2.50 g | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C=CC(=O)OCC | C30H30FNO7S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | water | 2.5 g | O | H2O
product | 1-{(2-Ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid | C(C)OC(=O)CCN(C1(CCCC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C23H26FNO7S
